US07884207B2
The starting material tert-butyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate (20.23 g, 50.3 mmol) was divided into two portions. To each portion was added ethanol (220 mL) and 5% platinum on carbon (1.1 g). Both portions were hydrogenated on a Parr apparatus at 40 psi (2.8×105 Pa) overnight. The mixtures were filtered through CELITE filter agent. The filtrates were combined and concentrated to provide the product tert-butyl 4-{[(3-aminoquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate as a brown oil. The product was concentrated twice from toluene and once from chloroform and used in the subsequent experiment.

reactant | tert-butyl 4-hydroxy-4-{[(3-nitroquinolin-4-yl)amino]methyl}piperidine-1-carboxylate | 50.3 mmol, 20.23 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C20H26N4O5
catalyst | platinum on carbon | 1.1 g | [Pt] | Pt
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | tert-butyl 4-{[(3-aminoquinolin-4-yl)amino]methyl}-4-hydroxypiperidine-1-carboxylate | NC=1C=NC2=CC=CC=C2C1NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C20H28N4O3
